US09326987B2
3-Fluoro-6-{6-fluoro-1-[(4-nitrophenyl)sulfonyl]-1H-indol-4-yl}-1-(phenylsulfonyl)-1H-indazol-4-amine
A solution of 3-fluoro-1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-amine (0.65 g), 4-bromo-6-fluoro-1-[(4-nitrophenyl)sulfonyl]-1H-indole (0.69 g) and Pd(PPh3)4 (0.17 g) in DMF (5 ml) was heated to 120° C. for 18 h. The mixture was concentrated in vacuo and purified by silica cartridge (100 g) by Flashmaster II using a gradient of cyclohexane and ethyl acetate to give the title compound, 0.48 g as an orange solid.

reactant | 3-fluoro-1-(phenylsulfonyl)-6-(trimethylstannanyl)-1H-indazol-4-amine | 0.65 g | FC1=NN(C=2C=C(C=C(C12)N)[Sn](C)(C)C)S(=O)(=O)C1=CC=CC=C1
reactant | 4-bromo-6-fluoro-1-[(4-nitrophenyl)sulfonyl]-1H-indole | 0.69 g | BrC1=C2C=CN(C2=CC(=C1)F)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H8BrFN2O4S
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.17 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Fluoro-6-{6-fluoro-1-[(4-nitrophenyl)sulfonyl]-1H-indol-4-yl}-1-(phenylsulfonyl)-1H-indazol-4-amine | FC1=NN(C=2C=C(C=C(C12)N)C1=C2C=CN(C2=CC(=C1)F)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=CC=C1 | C27H17F2N5O6S2
